US05314896
Step A: Preparation of 1,4-Dioxaspiro[4.5]decane-7-carboxylic acid
A mixture of ethyl 3-oxocyclohexanecarboxylate (Nallet, J-P., et al, Bull. Soc. Chem. Fr., Part II, No. 3-4, pages 153-156 (1979)) (101.7 g) ethylene glycol (38.9 g) and para-toluenesulfonic acid (5.5 g) in 1000 mL of benzene is refluxed with a Dean-Stark trap for 4 hours. The solution is cooled, washed with 1N sodium hydroxide and brine, dried over magnesium sulfate, and evaporated in vacuo to give 113.1 g of a light oil which is dissolved in 1000 mL of ethanol, treated with sodium hydroxide (25.3 g) in 250 mL of water, and refluxed for 2.5 hours. The mixture is concentrated in vacuo, cooled in an ice bath, and acidified with ice-cold 1N aqueous hydrochloric acid solution to a pH of 2. The title compound is extracted with chloroform (2×500 mL), dried over magnesium sulfate, and concentrated in vacuo. The title compound (99.3 g) is obtained as a yellowish oil, which is determined to be 98% pure by gas chromatography and is carried on without further purification.

reactant | ethyl 3-oxocyclohexanecarboxylate | O=C1CC(CCC1)C(=O)OCC | C9H14O3
reactant | ethylene glycol | 101.7 g | C(CO)O | C2H6O2
reactant | sodium hydroxide | 25.3 g | [OH-].[Na+]
solvent | benzene | 1000 mL | C1=CC=CC=C1 | C6H6
solvent | ethanol | 1000 mL | C(C)O | C2H6O
solvent | water | 250 mL | O | H2O
catalyst | para-toluenesulfonic acid | 5.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1,4-Dioxaspiro[4.5]decane-7-carboxylic acid | 99.3 g | O1CCOC12CC(CCC2)C(=O)O | C9H14O4
